US04048161
B. Preparation of 2-Benzimidazolecarboxylic Acid
The 2-hydroxymethylbenzimidazole from Part A (4 gms.) was refluxed in a small amount of saturated sodium carbonate solution with addition of sufficient boiling water to dissolve it. A hot, dilute solution of 6.67 gms. of potassium permanganate then was added slowly with stirring. Upon completion of the addition, the resulting suspension was refluxed for 30 minutes. The resulting hot liquid was separated by filtration from manganese dioxide which had formed. The filtrate then was cooled and rendered acidic (pH 5.0) by addition of acetic acid. The resulting yellow precipitate was filtered, dried, and recrystallized from hot water to obtain 1.98 gms. of the title compound as fine yellow needles.

reactant | 2-hydroxymethylbenzimidazole | OCC=1NC2=C(N1)C=CC=C2 | C8H8N2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
reactant | potassium permanganate | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Benzimidazolecarboxylic Acid | N1=C(NC2=C1C=CC=C2)C(=O)O | C8H6N2O2
